US07186729B2
Step 2: 3-[(4-Chloro-benzyl)-methoxycarbonylmethyl-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of 3-(4-Chloro-benzylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester (3.3 g, 10.7 mmol) in DMF (40 mL) was added Bromo-acetic acid methyl ester (1.01 mL, 10.7 mmol) and K2CO3 (1.48 g, 10.7 mmol). The resultant suspension was stirred at 70° C. overnight. The reaction mixture was diluted with water and ethyl ether. The organic extract was dried over MgSO4, filtered and concentrated to provide the desired product as an oil. The crude product was purified on SiO2 and concentrated to provide the desired product as an oil (3.5 g, 87%). LCMS (retention time=2.96, ES+383).

reactant | 3-(4-Chloro-benzylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 10.7 mmol, 3.3 g | C(C)(C)(C)OC(=O)N1CC(CC1)NCC1=CC=C(C=C1)Cl | C16H23ClN2O2
reactant | Bromo-acetic acid methyl ester | 10.7 mmol, 1.01 mL | COC(CBr)=O | C3H5BrO2
reactant | K2CO3 | 10.7 mmol, 1.48 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 3-[(4-Chloro-benzyl)-methoxycarbonylmethyl-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)N(CC(=O)OC)CC1=CC=C(C=C1)Cl | C19H27ClN2O4
